US08084395B2
Sodium hydride (30 mg, 0.72 mmole 60% in oil) is added to a solution of 200 mg (0.65 mmole) of 3-(4-Fluoro-phenyl)-2-pyridin-4-yl-pyrrolo[3,2-b]pyridin-1-ol in 6 mL of dimethylformamide at room temperature. After 30 min. at room temperature, 65 mg of chloromethyl methyl ether is added to the reaction mixture. After 1 hour at room temperature, the reaction mixture is poured into ammonium chloride solution and extracted with ethyl acetate. The organic phase is washed with water and dried over magnesium sulfate. The solid residue is purified by chromatography on silica gel (ethylacetate) to give 120 mg of 3-(4-Fluoro-phenyl)-1-methoxymethoxy-2-pyridin-4-yl-1H-pyrrolo[3,2-b]pyridine as white crystals.

reactant | Sodium hydride | 0.72 mmole, 30 mg | [H-].[Na+]
reactant | 3-(4-Fluoro-phenyl)-2-pyridin-4-yl-pyrrolo[3,2-b]pyridin-1-ol | 0.65 mmole, 200 mg | FC1=CC=C(C=C1)C1=C(N(C=2C1=NC=CC2)O)C2=CC=NC=C2 | C18H12FN3O
reactant | chloromethyl methyl ether | 65 mg | COCCl | C2H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 3-(4-Fluoro-phenyl)-1-methoxymethoxy-2-pyridin-4-yl-1H-pyrrolo[3,2-b]pyridine | 120 mg | FC1=CC=C(C=C1)C1=C(N(C=2C1=NC=CC2)OCOC)C2=CC=NC=C2 | C20H16FN3O2
